US05811389
8.6 ml of n-butyllithium solution (1.6M in hexane) were added dropwise at -78° to a solution of 3.3 g (11.49 mmol) of 3,7-dimethoxy-10-methyl-10H-dibenzo[b,e][1,4]oxazine-4-methanol in 33 ml of absolute tetrahydrofuran, whereby a white precipitate formed. The reaction mixture was brought to 0°, stirred for 30 minutes, treated at 0° with 1.96 ml (1.5 eq.) of 2-(methoxyethoxy)methyl chloride, stirred at room temperature for 1 hour and then poured into ice, saturated ammonium chloride solution and diethyl ether. The organic phase was dried over magnesium sulphate and evaporated. The residue was chromatographed on silica gel with a mixture of ethyl acetate/hexane (1:2), whereupon, after drying in a high vacuum, 4.13 g (95.75%) of 3,7-dimethoxy-4-[[(2-methoxyethoxy)methoxy]methyl]-10-methyl-10H-dibenzo[b,e][1,4]oxazine were obtained as a colourless oil. MS: 375 (M+, 100), 360(11), 270(14), 256(21), 226(14).

reactant | n-butyllithium | 1.6M, 8.6 ml | C(CCC)[Li]
reactant | 3,7-dimethoxy-10-methyl-10H-dibenzo[b,e][1,4]oxazine-4-methanol | 11.49 mmol, 3.3 g | COC=1C=CC2=C(OC3=C(N2C)C=CC(=C3)OC)C1CO | C16H17NO4
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
product | 3,7-dimethoxy-4-[[(2-methoxyethoxy)methoxy]methyl]-10-methyl-10H-dibenzo[b,e][1,4]oxazine | 4.13 g, 95.75% | COC=1C=CC2=C(OC3=C(N2C)C=CC(=C3)OC)C1COCOCCOC | C20H25NO6
